US07435823B2
Preparation of (R)-1-(2-nitro-4-(trifluoromethyl)phenyl)-N,N-dimethylpyrrolidin-3-amine
To a solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (0.67 mL, 4.78 mmol) in THF (25 mL) was added (R)-N,N-dimethylpyrrolidin-3-amine (0.66 g, 5.74 mmol) and NaHCO3 (1.1 g, 13.15 mmol). The reaction was stirred at RT and monitored by LCMS for disappearance of starting material and formation of product. The mixture was concentrated, diluted with CH2Cl2, washed with H2O and then brine. Drying with MgSO4 was followed by filtration and concentration to afford the product as an orange oil.

reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | 4.78 mmol, 0.67 mL | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | (R)-N,N-dimethylpyrrolidin-3-amine | 5.74 mmol, 0.66 g | CN([C@H]1CNCC1)C | C6H14N2
reactant | NaHCO3 | 13.15 mmol, 1.1 g | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (R)-1-(2-nitro-4-(trifluoromethyl)phenyl)-N,N-dimethylpyrrolidin-3-amine | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C[C@@H](CC1)N(C)C | C13H16F3N3O2
